US07157487B2
Methyl (4-(2-benzothiazolyl)amino-5-chloro-2-fluorophenyl)acetate (613 mg, 1.68 mmol) was dissolved in THF (5 ml). To the resulting solution was added 1N NaOH (5.0 ml, 5.00 mmol). The resulting mixture was stirred at room temperature for 17 hours. Water was added to the reaction mixture. The mixture was washed with ether. The water layer was poured in ice-1N HCl to acidify the water layer. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (4-(2-benzothiazolyl)amino-5-chloro-2-fluorophenyl)acetic acid (464 mg, 82%) as a pale yellow solid.

reactant | Methyl (4-(2-benzothiazolyl)amino-5-chloro-2-fluorophenyl)acetate | 1.68 mmol, 613 mg | S1C(=NC2=C1C=CC=C2)NC2=CC(=C(C=C2Cl)CC(=O)OC)F | C16H12ClFN2O2S
reactant | NaOH | 5.00 mmol, 1N, 5.0 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (4-(2-benzothiazolyl)amino-5-chloro-2-fluorophenyl)acetic acid | 464 mg, 82% | S1C(=NC2=C1C=CC=C2)NC2=CC(=C(C=C2Cl)CC(=O)O)F | C15H10ClFN2O2S
